* Z:\home\ss\Dropbox\Wriju\Notes\EC\EC_Assgn\Assignment.asc
D1 0 N001 1N4148
D2 0 N003 1N4148
D3 N001 N002 1N4148
D4 N003 N002 1N4148
V1 N001 N003 SINE(0 10 0.0001 10) Rser=0
R1 N002 0 100
.model D D
.lib C:\users\ss\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 100000 0 10000
.backanno
.end
