* Z:\home\ss\Dropbox\Wriju\Notes\EC\EC_Assgn\Assignment.asc
D1 0 N001 1N4148
D2 0 N004 1N4148
D3 N001 N002 1N4148
D4 N004 N002 1N4148
V1 N001 N004 SINE(0 10 0.0001 10) Rser=0
C1 N002 0 5000
R1 N002 N003 10 tol=1 pwr=0.1
D5 0 N003 EDZV6_2B
R2 N003 0 100
.model D D
.lib C:\users\ss\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 1000000000 0 100000
.backanno
.end
